US04092102
0.104 g. (.0005M) 2-methylamino-4-aminotoluene dihydrochloride (meta component) and .054 g. (.0005M) p-phenylenediamine (para component) was added to 3 ml. of ethanol and 20 g. of an aqueous solution composed of 1% Carbopol 934 (thickening agent) 0.1% Dupanol C (surfactant) and 3.8% ammonium acetate. The mixture was stirred with 3 ml. ammonium hydroxide (28%) and 20 ml. 6% hydrogen peroxide. A sample of human hair was dyed with this composition for 30 minutes at 30° C. A blue color was obtained which was perspiration, light and washfast, and superior in these characteristics to a similar dyeing obtained in which m-toluenediamine was used as the meta component.

reactant | 2-methylamino-4-aminotoluene dihydrochloride | .0005M | Cl.Cl.CNC1=C(C=CC(=C1)N)C
reactant | p-phenylenediamine | .0005M | C1=CC(=CC=C1N)N | C6H8N2
reactant | ammonium acetate | C(C)(=O)[O-].[NH4+]
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | hydrogen peroxide | OO | H2O2
solvent | ethanol | C(C)O | C2H6O
product | m-toluenediamine | C1(CC(=CC=C1)N)(C)N | C7H12N2
